US07691882B2
3-(1H-Pyrazol-4-yl)-pyridin-2-ylamine
3-(1-Trityl-1H-pyrazol-4-yl)-pyridin-2-ylamine (2.3 g, 5.71 mmol) described in Manufacturing Example 32-1-3, 2 N hydrochloric acid (15 mL), methanol (15 mL) and tetrahydrofuran (10 mL) were stirred for 30 minutes at 70° C. The reaction solution was allowed to room temperature, and partitioned into water and ethyl acetate. Saturated sodium bicarbonate solution was added to the separated aqueous layer, which was then extracted with ethyl acetate 6 times. The ethyl acetate layers were combined and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate, then ethyl acetate:methanol=10:1) to obtain the title compound (625 mg, 68.3%).

reactant | 3-(1-Trityl-1H-pyrazol-4-yl)-pyridin-2-ylamine | 5.71 mmol, 2.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC(=C1)C=1C(=NC=CC1)N | C27H22N4
reactant | hydrochloric acid | 2 N, 15 mL | Cl | ClH
reactant | methanol | 15 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(1H-Pyrazol-4-yl)-pyridin-2-ylamine | 625 mg, 68.3% | N1N=CC(=C1)C=1C(=NC=CC1)N | C8H8N4
